US07060707B2
N-[(9H-Fluoren-9-ylmethoxy)carbonyl]hydrazine (141)
Boc-hydrazine (10.0 g, 75.6 mmol) and DIPEA (12.95 ml, 75.6 mmol) were dissolved in dry CH2Cl2 (200 ml) and cooled to 0° C. FmocCl (19.6 g, 75.8 mmol), dissolved in dry CH2Cl2 (100 ml), was then added over the course of 30 minutes, and the mixture was stirred overnight at room temperature. The organic phase was extracted with water (200 ml) and evaporated to a volume of about 100 ml. Trifluoroacetic acid (100 ml) was then carefully added at 0° C., and the mixture was stirred for 1.5 hours. The product was precipitated by careful addition of saturated Na2CO3 solution (300 ml) and dried, giving a colourless solid (18.02 g, 70.8 mmol, 94%).

reactant | Boc-hydrazine | 75.6 mmol, 10.0 g | C(=O)(OC(C)(C)C)NN | C5H12N2O2
reactant | DIPEA | 75.6 mmol, 12.95 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | FmocCl | 75.8 mmol, 19.6 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[(9H-Fluoren-9-ylmethoxy)carbonyl]hydrazine | 70.8 mmol, 18.02 g, 94% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NN | C15H14N2O2
